US06407093B1
N-(3,4-Dihydro-2H-benzothiopyran-4-yl)homopiperazine
A 100 ml 3-necked flask equipped with a condenser, addition funnel and magnetic stirring bar and under a nitrogen atmosphere was charged with a solution of homopiperazine (3.0 g; 30.5 mmol) in DMAC (35 ml). Potassium iodide (300 mg) was added followed by the addition of a solution of 4-chloro-3,4-dihydro-2H-benzothiopyran (1.15 g; 6.1 mmol) in DMAC (15 ml). This solution was then heated in an oil bath at 60° C. overnight. The reaction mixture was partitioned between water and ethyl acetate, washed with brine and dried with magnesium sulphate. Filtration and evaporation of solvent gave a yellow oil (1.15 g) which exhibited a satisfactory proton nmr spectrum (300 MHz, CDCl3). This material was used without further purification.

reactant | homopiperazine | 30.5 mmol, 3.0 g | N1CCNCCC1 | C5H12N2
reactant | Potassium iodide | 300 mg | [I-].[K+]
reactant | 4-chloro-3,4-dihydro-2H-benzothiopyran | 6.1 mmol, 1.15 g | ClC1CCSC2=C1C=CC=C2 | C9H9ClS
solvent | DMAC | 35 ml | CC(=O)N(C)C | C4H9NO
solvent | DMAC | 15 ml | CC(=O)N(C)C | C4H9NO
product | N-(3,4-Dihydro-2H-benzothiopyran-4-yl)homopiperazine | 1.15 g | S1CCC(C2=C1C=CC=C2)N2CCNCCC2 | C14H20N2S
